US06063573
16-Bromohexadecanoic acid.
16-Bromohexadecanoic acid was prepared by refluxing for 48 hrs 5.0 gr (18.35 mmole) of 16-hydroxyhexadecanoic acid in 24 ml of 1:1 v/v mixture of HBr (48% aqueous solution) and glacial acetic acid. Upon cooling, crude product was solidified inside the reaction vessel. It was filtered out and washed with 3×1 00 ml of cold water. Material was purified by recrystalization from n-hexane, filtered out and dried on high vacuum. 6.1 gr (99% yield) of the desired product were obtained.

reactant | 16-hydroxyhexadecanoic acid | 18.35 mmole, 5.0 gr | OCCCCCCCCCCCCCCCC(=O)O | C16H32O3
reactant | HBr | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 16-Bromohexadecanoic acid | 6.1 gr, 99% yield | BrCCCCCCCCCCCCCCCC(=O)O | C16H31BrO2
